US05866560
c) 11β-Fluoro-estra-4,6-diene-3,17-dione
5 ml of a 10% sodium acetate solution and, in portions, 2.5 g of 1,3-dibromo-5,5-dimethylhydantoin are added in succession to 5.0 g of 11β-fluoro-3-methoxy-estra-3,5-dien-17-one in 50 ml of DMF at 0° C. After 30 minutes, 2.3 g of sodium sulfite is added and then 2.5 g of lithium bromide and 2.0 g of lithium carbonate, and it is stirred for 2 hours at 100° C. The reaction mixture is stirred into ice water. The precipitated product is suctioned off, dissolved in ethyl acetate, washed with water, dried and concentrated by evaporation in a vacuum. After recrystallization from ethyl acetate, 3.6 g of 11β-fluoro-estra-4,6-diene-3,17-dione with a melting point of 198° C. is obtained.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 2.5 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | 11β-fluoro-3-methoxy-estra-3,5-dien-17-one | 5.0 g | F[C@@H]1[C@@H]2[C@H]3CCC(=CC3=CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)OC | C19H25FO2
reactant | sodium sulfite | 2.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | lithium bromide | 2.5 g | [Br-].[Li+]
reactant | lithium carbonate | 2.0 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluoro-estra-4,6-diene-3,17-dione | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C=C[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H21FO2
